US08877772B2
Preparation of N-{4-[5-bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzyl}-acetamide (Intermediate CC)
4-[5-Bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzylamine (Intermediate CB, 45 mg, 0.1 mmol) was combined with triethylamine (45 μl, 0.3 mmol) and acetic anhydride (11 μl, 0.11 mmol) in anh. DCM (2 ml). The mixture was stirred for 2 hrs, EtOAc, was added and washed with 0.5 N HCl, saturated NaHCO3, water and brine. Evaporation yielded the title compound (48 mg, 96%). MS ESI (m/z): 498.1/500.1 (M+1)+, calc. 497/499.

reactant | 4-[5-Bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzylamine | 0.1 mmol, 45 mg | BrC=1C=C2C(=NC1)N(C=C2C2=CC=C(CN)C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C21H18BrN3O2S
reactant | triethylamine | 0.3 mmol, 45 μl | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.11 mmol, 11 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | N-{4-[5-bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzyl}-acetamide | 48 mg, 96% | BrC=1C=C2C(=NC1)N(C=C2C2=CC=C(CNC(C)=O)C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C23H20BrN3O3S
